US08236808B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid (2-amino-ethyl)-amide
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid methyl ester (2.0 g, 9.88 mmol) in neat ethylene diamine (18 mL) is heated using microwave irradiation in a Personal Chemistry Emrys™ Optimizer microwave reactor at 130° C. for 1 h at 4 bar. The solvent is removed in vacuo, water (10 mL) is added to the orange solid and the suspension is then cooled to 0° C. The off-white solid is collected by filtration and dried under vacuum at 50° C. to afford the title compound. [M+H]+ 231.

reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid methyl ester | 9.88 mmol, 2.0 g | COC(=O)C1=NC(=C(N=C1N)N)Cl | C6H7ClN4O2
solvent | ethylene diamine | 18 mL | C(CN)N | C2H8N2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C1=NC(=C(N=C1N)N)Cl | C7H11ClN6O
